US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-cyclohexylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.00 g) was suspended in 4N HCl-dioxane (10 ml), the suspension was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in methylene chloride (100 ml), the solution was successively washed with saturated aqueous sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, a mixed solvent of n-hexane and diisopropyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 700 mg of the titled compound (Yield: 86.2%).

reactant | 1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.00 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C2CCCCC2)NC(=O)OC(C)(C)C)=O)C | C31H39N3O5
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-cyclohexylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 700 mg, Yield: 86.2% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C2CCCCC2)N)=O)C | C26H31N3O3
